US04116962
1-[3-(4-Methoxybenzylmercapto)-2-(methylthio)propanoyl]-L-proline tert-butyl ester (0.5 g.) is dissolved in a mixture of dichloromethane (2 ml.) and anisole (1.1 ml.) under a blanket of argon in an ice bath. Trifluoromethanesulfonic acid (1 g.) is added and the mixture is stirred at room temperature for thirty minutes. The solvent is removed in vacuo and the residue is distributed between water and ethyl acetate. The organic layer is washed six times with water, dried and concentrated to dryness in vacuo to yield 1-[3-mercapto-2-(methylthio)propanoyl]-L-proline.

reactant | 1-[3-(4-Methoxybenzylmercapto)-2-(methylthio)propanoyl]-L-proline tert-butyl ester | 0.5 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CSCC1=CC=C(C=C1)OC)SC)=O)=O | C21H31NO4S2
reactant | Trifluoromethanesulfonic acid | 1 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | anisole | 1.1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 1-[3-mercapto-2-(methylthio)propanoyl]-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)SC | C9H15NO3S2
